US05908858
29(i) N-(4-Methylbenzylidene)-4-methylthioaniline
Following a procedure similar to that described in Example 1(i), but using 4-methylbenzaldehyde and 4-methylthioaniline as starting materials, the title compound was obtained as a slightly yellow powder (yield 96%).

reactant | 4-methylbenzaldehyde | CC1=CC=C(C=O)C=C1 | C8H8O
reactant | 4-methylthioaniline | CSC1=CC=C(N)C=C1 | C7H9NS
product | N-(4-Methylbenzylidene)-4-methylthioaniline | CC1=CC=C(C=NC2=CC=C(C=C2)SC)C=C1 | C15H15NS
